US06043254
(a) 1-acetyl-3-[1-hydroxy-1-(4-trifluoromethyl-phenyl)-methylidene}-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-5-nitro-2-indolinone with one equivalent of 4-trifluoromethyl-benzoic acid in dry DMF in the presence of 1 equivalent each of TBTU and HOBT and 5 equivalents of Huinig's base (20° C., 4 hours), stirring into dilute hydrochloric acid, filtering the precipitate, dissolving the precipitate in EtOac, drying the organic phase and evaporation in vacuo and purifying the evaporation residue by column chromatography on silica gel with CH2Cl2 /MeOH (10:1) as eluant.

reactant | 1-acetyl-5-nitro-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C10H8N2O4
reactant | 4-trifluoromethyl-benzoic acid | one equivalent | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | TBTU | 1 equivalent | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-acetyl-3-[1-hydroxy-1-(4-trifluoromethyl-phenyl)-methylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=C(C=C1)C(F)(F)F)O)=O | C18H11F3N2O5
